US05824691
Trichloroacetyl chloride (15.5 ml) was added to a mixture of methyl 3-(pyrrol-1-yl)benzoate (14.0 g) and pyridine (16.9 ml) in 1,2-dichloroethane (70 ml) under ice-cooling and the mixture was stirred for 7 days at ambient temperature. The mixture was poured into a mixture of chloroform and water, and the mixture was adjusted to pH 1 with 6N-hydrochloric acid. The separated organic layer was washed with a saturated aqueous sodium bicarbonate solution and water. The mixture was dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate (21.23 g).

reactant | Trichloroacetyl chloride | 15.5 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | methyl 3-(pyrrol-1-yl)benzoate | 14.0 g | N1(C=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C12H11NO2
reactant | pyridine | 16.9 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate | 21.23 g | ClC(C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1)(Cl)Cl | C14H10Cl3NO3
